US07989633B2
n-Propyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
250 mg (0.75 mmol) of 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione are dissolved with 143 mg (1.0 mmol) of n-propyl 3-aminocrotonate in 5 ml of ethanol and heated under reflux under argon for 24 h. The reaction solution is purified by preparative HPLC.

reactant | 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione | 0.75 mmol, 250 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)C1=CC=CC=C1)C(C)=O | C21H16O4
reactant | n-propyl 3-aminocrotonate | 1.0 mmol, 143 mg | N\C(=C/C(=O)OCCC)\C | C7H13NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | n-Propyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C(C(=C(NC1C)C)C(=O)OCCC)C=1C=CC=C2C(C=C(OC12)C)=O | C28H27NO5
